US08252781B2
Process 4: Preparation of 4-butyl-2-(adamantan-2-yl)-1-[2-(trifluoromethyl)benzyl]-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4-butyl-1,2-diazetidin-3-one and 2-(trifluoromethyl)benzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4-butyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)CCCC | C16H26N2O
reactant | 2-(trifluoromethyl)benzyl bromide | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | 4-butyl-2-(adamantan-2-yl)-1-[2-(trifluoromethyl)benzyl]-1,2-diazetidin-3-one | C(CCC)C1C(N(N1CC1=C(C=CC=C1)C(F)(F)F)C1C2CC3CC(CC1C3)C2)=O | C24H31F3N2O
